US05117027
1.74 g (0.015 mol) of 4-dimethylaminopyridine were dissolved in 201.5 (1.015 mol) of 3-chloropropyltrimethoxysilane, and the solution was heated to 135° C. while stirring, and was maintained at this temperature for 15 minutes. After the solution had been cooled to 60° C., 124.2 g (1 mol) of potassium methacrylate and 0.6 g of N,N'-diphenyl-p-phenylenediamine were added. The mixture was then heated to 135° C. again and maintained at that temperature for 1 hour. Thereafter, it was cooled, and the potassium chloride which had precipitated was filtered off and washed with 80 g of methanol. The methanol was evaporated from the combined filtrates, and the residue was distilled under reduced pressure. 228.1 g of 3- methacryloxypropyltrimethoxysilane having a boiling point of 83° C. (0.4 mbar) were obtained. The yield was 92% of theory, based on the amount of potassium methacrylate used. The purity of the end product was 99.0%. In the gas chromatogram only traces of 4-dimethylaminopyridine were detectable.

reactant | potassium methacrylate | 1 mol, 124.2 g | C(C(=C)C)(=O)[O-].[K+]
reactant | N,N'-diphenyl-p-phenylenediamine | 0.6 g | C=1C=CC(=CC1)NC=2C=CC(=CC2)NC=3C=CC=CC3 | C18H16N2
reactant | 3-chloropropyltrimethoxysilane | ClCCC[Si](OC)(OC)OC | C6H15ClO3Si
catalyst | 4-dimethylaminopyridine | 0.015 mol, 1.74 g | CN(C1=CC=NC=C1)C | C7H10N2
product | 3- methacryloxypropyltrimethoxysilane | 228.1 g, yield was 92% | C(C(=C)C)(=O)OCCC[Si](OC)(OC)OC | C10H20O5Si
